US04440941
A. 3-Trifluoromethyl-2-aminobenzoic acid
7-Trifluoromethylisatin (10 g, 46 mmol) was dissolved in 5% sodium hydroxide solution (83 ml). To this was added dropwise over 30 minutes a solution of 50% hydrogen peroxide (7.4 ml) in water (4.6 ml); the temperature rose to 50°. The solution was stirred an additional 30 minutes, acidified (conc. HCl) to pH 1-2, and the tan product was filtered.

reactant | 7-Trifluoromethylisatin | 46 mmol, 10 g | FC(C=1C=CC=C2C(C(NC12)=O)=O)(F)F | C9H4F3NO2
reactant | hydrogen peroxide | 7.4 ml | OO | H2O2
reactant | HCl | Cl | ClH
solvent | sodium hydroxide | 83 ml | [OH-].[Na+]
solvent | water | 4.6 ml | O | H2O
product | 3-Trifluoromethyl-2-aminobenzoic acid | FC(C=1C(=C(C(=O)O)C=CC1)N)(F)F | C8H6F3NO2
